US04556665
2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid
2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid 1,1-dimethylethyl ester (110.1 g, 0.556 mol) is added in portions to stirred trifluoroacetic acid (500 g). After stirring the resulting mixture at room temperature for 20 minutes the suspension is evaporated in vacuo. The solid residue is mixed with water (700 mL), the mixture filtered, and the solid residue washed with an additional portion of water (700 mL). The filter cake is then dried for 1.5 hr. at ca. 105° C., then overnight at room temperature to produce the title compound.

reactant | 2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid 1,1-dimethylethyl ester | 0.556 mol, 110.1 g | CC(C)(C)OC(=O)C=1NC(NC1C)=O | C9H14N2O3
reactant | trifluoroacetic acid | 500 g | FC(C(=O)O)(F)F | C2HF3O2
product | 2,3-Dihydro-5-methyl-2-oxo-1H-imidazole-4-carboxylic acid | CC1=C(NC(N1)=O)C(=O)O | C5H6N2O3
